### PR TITLE
[Merged by Bors] - feat: biUnion_inter_of_pairwise_disjoint

### PR DESCRIPTION
**Pull request by ADedecker**
A basic order/set lemma: given a family `f` of pairwise disjoint sets, one has `⋃ i ∈ (s ∩ t), f i = (⋃ i ∈ s, f i) ∩ (⋃ i ∈ t, f i)`.

Prompted by #30109 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 1]
```diff
@@ -323,6 +324,23 @@ theorem iSup_iInf_eq [CompletelyDistribLattice α] {f : ∀ a, κ a → α} :
...
+  rcases hκ with ⟨j⟩
+  simp_rw [iInf_iSup_eq, mem_iInter]
+  refine le_antisymm
+    (iSup₂_le fun i hi ↦ le_iSup₂_of_le (fun _ ↦ i) hi (le_iInf fun _ ↦ le_rfl))
+    (iSup₂_le fun I hI ↦ ?_)
+  by_cases H : ∀ k, I k = I j
+  · exact le_iSup₂_of_le (I j) (fun k ↦ (H k) ▸ (hI k)) (iInf_le _ _)
+  · push_neg at H
+    rcases H with ⟨k, hk⟩
+    calc ⨅ k, f (I k)
```
Comment (ADedecker) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]:
```suggestion
    calc ⨅ l, f (I l)
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
